US05834499
To a solution of 0.86 g of 2-(1-benzyl-3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole in 5 ml of dichloroethane was added 5 ml of 1-chloroethyl chloroformate, followed by heating under reflux for 2 hours. After cooling, the solvent was evaporated and 10 ml of methanol was added to the resulting residue, followed by heating under reflux for 2 hours. After the completion of the reaction, ethyl acetate was added to the reaction mixture, followed by extraction with 1N hydrochloric acid. The extract was neutralized with sodium bicarbonate, followed by the extraction with chloroform. The extract was dried over anhydrous magnesium sulfate and the solvent was evaporated, whereby 0.18 g of 2-(3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole was obtained. The resulting product was dissolved in methanol. Fumaric acid was added to the resulting solution to cause crystallization, and the crystals were recrystallized from acetonitrile-methanol to obtain a fumarate.

reactant | 2-(1-benzyl-3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole | 0.86 g | C(C1=CC=CC=C1)N1CC(CC1)C=1SC2=C(N1)C=1C=CC=CC1C2 | C21H20N2S
reactant | 1-chloroethyl chloroformate | 5 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
product | 2-(3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole | 0.18 g | N1CC(CC1)C=1SC2=C(N1)C=1C=CC=CC1C2 | C14H14N2S
